US04703053
A solution of 12.3g (0.11 mole) of potassium tert-butoxide in 100 ml of dimethyl sulfoxide (under a nitrogen atmosphere) is cooled in a cold water bath and treated dropwise with a solution of 16.6 g (0.075 mole) of 3-hydroxy-5-methoxy-2-benzofuran carboxylic acid, methyl ester. The mixture is stirred for 45 minutes after completion of the addition, and 7.0 ml (9.2 g; 0.075 mole) of 2-bromopropane is added in one portion. After stirring for 24 hours at room temperature, the reaction mixture is added to 1.5 kg of ice/water and stirred an additional hour. The precipitated product is filtered and washed with water. The crude yield is 9.0 g (46% yield). A sample recrystallized from aqueous methanol yields analytically pure 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid methyl ester, mp 66°-68° C.

reactant | potassium tert-butoxide | 0.11 mole, 12.3g | CC(C)([O-])C.[K+]
reactant | 3-hydroxy-5-methoxy-2-benzofuran carboxylic acid, methyl ester | 0.075 mole, 16.6 g | OC1=C(OC2=C1C=C(C=C2)OC)C(=O)OC | C11H10O5
reactant | 2-bromopropane | 0.075 mole, 7.0 ml, 9.2 g | BrC(C)C | C3H7Br
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-methoxy-3-(1-methylethoxy)-2-benzofurancarboxylic acid methyl ester | 46% yield | COC(=O)C=1OC2=C(C1OC(C)C)C=C(C=C2)OC | C14H16O5
